US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-methylaminomethyliminomethylaminobenzoate.dihydrochloride:
80 Milliliters of 20% hydrous pyridine was added to 5.76 g of 4-methylaminomethyliminomethylaminobenzoic acid.hydrochloride, 6.0 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 5.3 g of DCC and 217 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 5 days at room temperature. Then, the precipitate was collected by filtration and washed with 120 ml of warm DMF. To this collected precipitate was added 300 ml of water, followed by stirring for 24 hours at room temperature, and the precipitate was filtered. Each of the reaction filtrate, warm DMF wash liquid and aqueous filtrate obtained above was concentrated under reduced pressure. The resulting residues were combined and 70 ml of DMF was added thereto. The solution was added dropwise to 700 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 50 ml of methanol and 3.3 ml of concentrated hydrochloric acid, and the solution was added dropwise to a mixed liquid of 500 ml of acetone and 200 ml of ether, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 5.78 g of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-methylaminomethyliminomethylaminobenzoic acid.hydrochloride | 5.76 g | Cl.CNCN=CNC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 6.0 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 5.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 217 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water acetic acid | C(C)C(=O)C.O.C(C)(=O)O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-methylaminomethyliminomethylaminobenzoate.dihydrochloride | 5.78 g | Cl.Cl.CNCN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C23H24N6O3.2ClH/c1-27-12-28-13-29-17-6-2-14(3-7-17)23(31)32-20-9-5-15-10-16(22(25)26)4-8-18(15)19(20)11-21(24)30;;/h2-10,13,27H,11-12H2,1H3,(H2,24,30)(H3,25,26)(H,28,29);2*1H
